US07514564B2
Step A: N-[3-(2-Bromo-ethylamino)-4-tert-butyl-phenyl]-2-(1H-indazol-6-ylamino)-nicotinamide
The title compound was prepared from N-[4-tert-butyl-3-(2-hydroxy-ethylamino)-phenyl]-2-(1H-indazol-6-ylamino)-nicotinamide by dissolving in CH2Cl2 (5 ml) and adding CBr4 (215 mg) and bis(diphenylphosphino)-propane (270 mg). The reaction was stirred at RT for 3 h then worked up with partitioning between H2O and CH2Cl2. The aqueous layer was extracted with CH2Cl2 (3×) and the combined organic fractions were washed with H2O, brine and dried (MgSO4). The crude material was purified by flash chromatography to yield a yellow foamed solid. M+H 508.

reactant | N-[4-tert-butyl-3-(2-hydroxy-ethylamino)-phenyl]-2-(1H-indazol-6-ylamino)-nicotinamide | C(C)(C)(C)C1=C(C=C(C=C1)NC(C1=C(N=CC=C1)NC1=CC=C2C=NNC2=C1)=O)NCCO | C25H28N6O2
reactant | CBr4 | 215 mg | C(Br)(Br)(Br)Br | CBr4
reactant | bis(diphenylphosphino)-propane | 270 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C(C)(C)P(C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(2-Bromo-ethylamino)-4-tert-butyl-phenyl]-2-(1H-indazol-6-ylamino)-nicotinamide | BrCCNC=1C=C(C=CC1C(C)(C)C)NC(C1=C(N=CC=C1)NC1=CC=C2C=NNC2=C1)=O | C25H27BrN6O
